US09260427B2
Prepared using General Procedure 7. A stirred solution of (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid (419 mg, 0.738 mmol), (S)-tert-butyl pyrrolidine-2-carboxylate HCl (153 mg, 0.738 mmol) and TEA (257 μl, 1.845 mmol) in DMF (6 mL) was cooled to 0° C. and HATU (295 mg, 0.775 mmol) was slowly added over 5 minutes. The reaction was stirred at room temperature for 2 h, then diluted with 1M citric acid (30 mL) and iso-hexanes (20 mL). EA (100 mL) was added and the organic layer was isolated, washed with brine (100 mL), dried with MgSO4. The solvent was removed and the crude product was purified by chromatography 0-20% ACN in DCM to afford 436 mg (81%) of (S)-tert-butyl 1-((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-2-carboxylate INT-25 as a viscous oil. LCMS-ESI (m/z) calculated for C43H52N4O6: 720.4; no m/z observed, tR=11.45 min (Method 10).

reactant | (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid | 0.738 mmol, 419 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C34H37N3O5
reactant | (S)-tert-butyl pyrrolidine-2-carboxylate HCl | 0.738 mmol, 153 mg | Cl.N1[C@@H](CCC1)C(=O)OC(C)(C)C
reactant | HATU | 0.775 mmol, 295 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | EA | 100 mL | CC(OCC)=O | C4H8O2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | citric acid | 1M, 30 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (S)-tert-butyl 1-((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-2-carboxylate | 436 mg, 81% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C43H52N4O6
